US08895313B2
4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)aniline
Prepared as described in the Nitro Reduction section using 6-iodo-2-(4-nitrophenyl)imidazo[1,2-a]pyridine (0.45 g, 1.23 mmol) and tin (II) dichloride dihydrate (1.39 g, 6.16 mmol) in EtOH (25 ml) to give the title compound (0.301 g, 73%) as a yellow solid, after work-up and flash chromatography (4:1 EtOAc/DCM).

reactant | 6-iodo-2-(4-nitrophenyl)imidazo[1,2-a]pyridine | 1.23 mmol, 0.45 g | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)[N+](=O)[O-] | C13H8IN3O2
reactant | tin (II) dichloride dihydrate | 6.16 mmol, 1.39 g | O.O.[Sn](Cl)Cl
solvent | EtOH | 25 ml | CCO | C2H6O
product | 4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)aniline | 0.301 g, 73% | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(N)C=C2 | C13H10IN3
